US04775668
1-Vinyl-6-fluoro-7-(9-methyl-3,9-diazabicyclo[4.2.1]non-3-yl)-1,4-dihydro-4-oxo-3-quinoline carboxylic acid
The title comound was prepared in 44.7% yield according to example 8 by reacting 6,7-difluoro-1-vinyl-1,4-dihydro-4-oxo-3-quinoline-carboxylic acid with 9-methyl-3,9-diazabicyclo[4.2.1]nonane, m.p. 214°-215° C.

reactant | 6,7-difluoro-1-vinyl-1,4-dihydro-4-oxo-3-quinoline-carboxylic acid | FC=1C=C2C(C(=CN(C2=CC1F)C=C)C(=O)O)=O | C12H7F2NO3
reactant | 9-methyl-3,9-diazabicyclo[4.2.1]nonane | CN1C2CNCCC1CC2 | C8H16N2
product | 1-Vinyl-6-fluoro-7-(9-methyl-3,9-diazabicyclo[4.2.1]non-3-yl)-1,4-dihydro-4-oxo-3-quinoline carboxylic acid | 44.7% yield | C(=C)N1C=C(C(C2=CC(=C(C=C12)N1CC2CCC(CC1)N2C)F)=O)C(=O)O | C20H22FN3O3
